US05559111
f) 5(S)-Azido-4(S)-hydroxy-2(S),7(S)-diisopropyl-8(R,S)-isobutyryloxy-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide
A solution of 170 mg of 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-isobutyryloxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one in 1.4 ml of butylamine is stirred for 16 hours at room temperature and is then concentrated by evaporation. Purification of the residue by means of FC (hexane/ethyl acetate=7:3) yields the title compound: Rf (hexane/ethyl acetate=7:3)=0.25; HPLC Rt =20.38 and 20.8 minutes (diastereoisomeric mixture).

reactant | 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-isobutyryloxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one | 170 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)OC(C(C)C)=O)C(C)C)N=[N+]=[N-])=O | C29H45N3O7
solvent | butylamine | 1.4 ml | C(CCC)N | C4H11N
product | 5(S)-Azido-4(S)-hydroxy-2(S),7(S)-diisopropyl-8(R,S)-isobutyryloxy-8-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)OC(C(C)C)=O)C(C)C)N=[N+]=[N-])O)C(C)C)=O | C33H56N4O7
